US06207686B1
To a solution of 1,4-benzodioxane-6-acetic acid (5.0 g) and potassium carbonate (2.13 g) in dimethylformamide (20 ml) was added benzyl bromide (4.84 g) at room temperature. After being stirred at the same temperature for 3 hours, the mixture was poured into water (200 ml) and extracted with diethyl ether (150 ml). The organic layer was washed with 5% hydrochloric acid solution, 1M aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuo to afford benzyl 1,4-benzodioxane-6-acetate (7.08 g) as an oil.

reactant | 1,4-benzodioxane-6-acetic acid | 5.0 g | O1CCOC2=C1C=CC(=C2)CC(=O)O | C10H10O4
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.84 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzyl 1,4-benzodioxane-6-acetate | 7.08 g | O1CCOC2=C1C=CC(=C2)CC(=O)OCC2=CC=CC=C2 | C17H16O4
